Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[O:1]=[C:2][H:3],3.94978663296
[O:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:13].[O:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12],4.58463604214
[O:1]=[C:2]([H:3])[C:4][C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:6].[O:1]=[C:2]([H:3])/[C:4]=[C:5](/[O:7][H:8])[C:9]([H:10])([H:11])[H:12],1.82045960552
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],-3.54434894898
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[C:10]([H:11])([H:12])[H:13].[O:1],4.14336503355
[C:2](#[C:3][O:4][H:5])[C:6]([H:7])=[C:8][H:9].[O:1]>>[O:1]=[C:2]([C:3][O:4][H:5])[C:6]([H:7])=[C:8][H:9],-3.36069869261
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][O:9][C:10]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]1[C:8]2[O:9][C:10]12,-0.507539809851
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:3],1.92528663233
[H:1][C:2]=[C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[H:1][C:2]#[C:3][C:4][O:5][H:6],1.44587894068
[O:1]=[C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])[H:9]>>[O:1]=[C:2]/[C:3]([H:4])=[C:5]1\[O:6][C:7]1([H:8])[H:9],-1.4037118665
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13],1.98194281888
[H:1][C:2]#[C:3][C:4]([H:5])[H:6].[O:7]=[C:8]=[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],0.858702344699
[O:1][C@@:2]([H:3])([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:6].[O:1][C@@:2]([H:3])([C:4]#[C:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],5.95868986431
[H:1][C:2]1=[C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15]>>[H:1][C:2]([C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12])=[C:13]([H:14])[H:15],2.99214780447
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9]>>[H:3].[O:1]=[C:2]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],4.10517212301
[C:2]([H:3])#[C:4][C:5]([H:6])([H:7])[O:8][H:9].[O:1]>>[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[O:8][H:9],-2.74131595535
[O:1]=[C:2]=[C:3][O:4][C:5]#[C:6][H:7]>>[C:3][O:4][C:5]#[C:6][H:7].[O:1]=[C:2],1.6208566136200002
[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][H:9]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.89018244165
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9].[O:10][H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],-5.93051626399
[C:4](#[C:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.22263155828
[H:10].[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])=[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2](/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.69856862632
[H:1]/[C:2](=[C:3](/[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:15]([H:16])([H:17])[H:18].[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],4.5419455239
[C:7]([H:8])#[C:9][C:10]([H:11])[H:12].[H:1][C:2]([H:3])[C:4]#[C:5][H:6]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],-3.41357396942
[H:6].[O:1]=[C:2]([H:3])[C:4]#[C:5]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][H:6],-5.9561012316
[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:3]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.0952072786
[C:14]([H:15])([H:16])[H:17].[H:1][C:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-3.40853736608
[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.4438158707
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][H:9].[O:1],8.372800994219999
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:5]([H:6])([H:7])=[C:8]([H:9])[H:10].[H:1][O:2][C:3](=[O:4])[C:11]([H:12])[H:13],-0.537636641991
